US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-malononitrile
A mixture of 3-(3-chloro-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.500 g), malononitrile (0.270 g) and triethylamine (1.50 g) in methyl sulfoxide is stirred at 60° C. for 15 minutes, cooled to room temperature, and diluted with water. The resultant aqueous mixture is extracted with ethyl acetate. The organic extract is washed with water, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a brown oil. The extracted aqueous phase is diluted with brine, acidified with concentrated hydrochloric acid, and extracted with ethyl acetate. The organic extract is dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a brown oil. Flash column chromatography of the combined oils using silica gel and an ethyl acetate/hexanes/methanol/acetic acid solution (10:10:4:1) gives the title product as an oil which is identified by NMR spectral analyses.

reactant | 3-(3-chloro-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.500 g | ClC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C13H7ClF3N3O2S
reactant | malononitrile | 0.270 g | C(CC#N)#N | C3H2N2
reactant | triethylamine | 1.50 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | methyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-malononitrile | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C#N)C#N)C1)=O | C16H8F3N5O2S
